US07550598B2
(Z)—N-(4-(2-(3-methyl-5-oxo-1H-pyrazol-4(5H)-ylidene)-1,2-dihydroquinolin-4-ylthio)phenyl)acetamide
The title compound was prepared from (Z)-4-(4-chloroquinolin-2(1H)-ylidene)-3-methyl-1H-pyrazol-5(4H)-one and 4-actamidothiophenol using the procedure described in Example 6. 1H NMR (400 MHz, DMSO-D6) δ ppm 1.94 (s, 3H) 2.11 (s, 3H) 6.77 (s, 1H) 7.65-7.69 (m, 3H) 7.83-7.93 (m, 3H) 7.99 (d, J=8.08 Hz, 1H) 8.16 (d, J=8.34 Hz, 1H) 10.35 (s, 1H); ESI-MS: m/z calc'd for C21H18N4O2S 390.12. found 391.2 (M+H)+.

reactant | (Z)-4-(4-chloroquinolin-2(1H)-ylidene)-3-methyl-1H-pyrazol-5(4H)-one | ClC1=C/C(/NC2=CC=CC=C12)=C/1\C(=NNC1=O)C | C13H10ClN3O
reactant | 4-actamidothiophenol | C(C)(=O)NC1=CC=C(C=C1)S | C8H9NOS
product | (Z)—N-(4-(2-(3-methyl-5-oxo-1H-pyrazol-4(5H)-ylidene)-1,2-dihydroquinolin-4-ylthio)phenyl)acetamide | CC/1=NNC(\C1=C\1/NC2=CC=CC=C2C(=C1)SC1=CC=C(C=C1)NC(C)=O)=O | C21H18N4O2S
